US06525036B2
A solution comprised of ethyl 2-bromoacetyl-4-methylpentanoate (0.264 gm, 1 mmol) in ethanol (5 mL) was treated with thiobenzamide (0.15 gm, 1.1 mmol). The mixture was heated at refluxed for 1 hour and concentrated to provide ethyl 4-methyl-2-(2-phenylthiazol-4-yl)pentanoate as a crude product.

reactant | ethyl 2-bromoacetyl-4-methylpentanoate | 1 mmol, 0.264 gm | BrCC(=O)C(C(=O)OCC)CC(C)C | C10H17BrO3
reactant | thiobenzamide | 1.1 mmol, 0.15 gm | C(C1=CC=CC=C1)(=S)N | C7H7NS
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl 4-methyl-2-(2-phenylthiazol-4-yl)pentanoate | CC(CC(C(=O)OCC)C=1N=C(SC1)C1=CC=CC=C1)C | C17H21NO2S
